US09315521B2
2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol
This example was synthesized from 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol and 4-(bromomethyl)-3,5-dichloropyridine by following general procedure as described in the last step of Example 22. The title compound was obtained as a white solid (660 mg, 37% yield); 1H NMR (400 MHz, DMSO-d6): δ 4.72 (s, 2H), 6.69 (br, 1H), 8.64 (s, 2H); M+356.

reactant | 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol | SC1=NC(=CC(=N1)O)C(F)(F)F | C5H3F3N2OS
reactant | 4-(bromomethyl)-3,5-dichloropyridine | BrCC1=C(C=NC=C1Cl)Cl | C6H4BrCl2N
product | 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | ClC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C(F)(F)F)Cl | C11H6Cl2F3N3OS
